US06559173B1
3-{[5-(5-tert-Butyl-2-methyl-furan-3-yl)-2H-pyrazol-3-ylamino]-methylene}-6-fluoro-1,3-dihydro-indol-2-one
The named compound is prepared by substituting E & Z-3-[(hydroxy)-methylene]-6-fluoro-1,3-dihydro-indol-2-one for E & Z-3-[(hydroxy)-methylene)-1,3-dihydro-indol-2-one and 5-(5-tert-butyl-2-methyl-furan-3-yl)-2H-pyrazol-3-ylamine for 3-aminopyrazole in the reaction of Example 1. Specifically, E & Z-3-[(hydroxy)-methylene]-6-fluoro-1,3-dihydro-indol-2-one (0.033 gms.) is reacted with 0.089 gms. 5-(5-tert-butyl-2-methyl-furan-3-yl)-2H-pyrazol-3-ylamine by refluxing in tetrahydrofuran (0.88 mL) to afford the named compound in the amount of 0.0362 gms.

reactant | Z-3-[(hydroxy)-methylene]-6-fluoro-1,3-dihydro-indol-2-one | O\C=C\1/C(NC2=CC(=CC=C12)F)=O | C9H6FNO2
reactant | Z-3-[(hydroxy)-methylene)-1,3-dihydro-indol-2-one | O\C=C\1/C(NC2=CC=CC=C12)=O | C9H7NO2
reactant | 5-(5-tert-butyl-2-methyl-furan-3-yl)-2H-pyrazol-3-ylamine | C(C)(C)(C)C1=CC(=C(O1)C)C=1C=C(NN1)N | C12H17N3O
reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
reactant | Z-3-[(hydroxy)-methylene]-6-fluoro-1,3-dihydro-indol-2-one | 0.033 gms | O\C=C\1/C(NC2=CC(=CC=C12)F)=O | C9H6FNO2
solvent | tetrahydrofuran | 0.88 mL | O1CCCC1 | C4H8O
product | 3-{[5-(5-tert-Butyl-2-methyl-furan-3-yl)-2H-pyrazol-3-ylamino]-methylene}-6-fluoro-1,3-dihydro-indol-2-one | C(C)(C)(C)C1=CC(=C(O1)C)C=1C=C(NN1)NC=C1C(NC2=CC(=CC=C12)F)=O | C21H21FN4O2
